US08071581B2
Step 1: 6-Bromo-8-fluoro-quinoline
A mixture of 4-bromo-2-fluoroaniline (12.825 g, 67.5 mmol), 4.275 g of ferrous sulfate, 25.46 g (20.2 ml) of glycerol, 5.067 g (4.2 ml) of nitrobenzene and 11.79 ml of concentrated sulfuric acid was heated gently. After the first vigorous reaction, the mixture was boiled for 7 hours. The nitrobenzene was removed in vacuo. Water was added. The aqueous solution was acidified with glacial acetic acid, and the dark brown precipitate separated, which was purified by flash chromatography (silica gel, petroleum/ethyl acetate=12/1) to return the title compound as white solid (9.72 g, 63.7%).

reactant | 4-bromo-2-fluoroaniline | 67.5 mmol, 12.825 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | nitrobenzene | 4.2 ml, 5.067 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sulfuric acid | 11.79 ml | S(O)(O)(=O)=O | H2O4S
solvent | glycerol | 20.2 ml, 25.46 g | OCC(O)CO | C3H8O3
product | 6-Bromo-8-fluoro-quinoline | BrC=1C=C2C=CC=NC2=C(C1)F | C9H5BrFN
